US07662825B2
3-Chloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)-2-methylbenzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 5,6-dichloro-3-methoxy-2-pyrazinamine (0.1 g) and 3-chloro-2-methylbenzenesulphonyl chloride (0.14 g). Yield 0.13 g.

reactant | 5,6-dichloro-3-methoxy-2-pyrazinamine | 0.1 g | ClC=1N=C(C(=NC1Cl)N)OC | C5H5Cl2N3O
reactant | 3-chloro-2-methylbenzenesulphonyl chloride | 0.14 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-(5,6-dichloro-3-methoxy-2-pyrazinyl)-2-methylbenzenesulphonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=NC(=C(N=C1OC)Cl)Cl)C | C12H10Cl3N3O3S
